US08236823B2
To 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoyl chloride (60 mg, 0.17 mmol) and N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine (44.1 mg, 0.160 mmol) was added THF (1.0 mL). The mixture was stirred at rt for 4.5 days. The reaction was quenced with excess triethylamine, filtered and concentrated. The residue was purified by Gilson reverse-phase HPLC (0.1% TFA in water/acetonitrile). After basic workup, N-(2-((3-(dimethylamino)propyl)(methyl)amino)-5-(trifluoromethyl)phenyl)-2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzamide was obtained as a white solid. MS m/z=558 [M+1]+. Calc'd for C28H27F4N5O3: 557.55.

reactant | 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoyl chloride | 0.17 mmol, 60 mg | FC1=C(C(=O)Cl)C=C(C=C1)OC1=NC=CC=C1C1=CN=CO1 | C15H8ClFN2O3
reactant | N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine | 0.160 mmol, 44.1 mg | CN(CCCN(C=1C(=CC(=CC1)C(F)(F)F)N)C)C | C13H20F3N3
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2-((3-(dimethylamino)propyl)(methyl)amino)-5-(trifluoromethyl)phenyl)-2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzamide | CN(CCCN(C1=C(C=C(C=C1)C(F)(F)F)NC(C1=C(C=CC(=C1)OC1=NC=CC=C1C1=CN=CO1)F)=O)C)C | C28H27F4N5O3
